US09102688B2
General Procedure 14: 6-Methoxyquinolin-8-amine (Intermediate 23)
Raney Nickel (60 mg, 20% wt) was added portionwise to a solution of 6-methoxy-8-nitroquinoline (300 mg, 1.40 mmol) in MeOH (10 ml), under argon. Hydrazine hydrate (270 μl, 5.6 mmol) was added and the reaction stirred at room temperature for 1 h. The mixture was filtered through celite and washed with MeOH. The filtrate was concentrated in vacuo, re-dissolved in DCM and washed with water. The organic phase was dried (Na2SO4) and concentrated in vacuo to give the title compound (250 mg, 100%) which was used in the next step without purification.

reactant | 6-methoxy-8-nitroquinoline | 1.40 mmol, 300 mg | COC=1C=C2C=CC=NC2=C(C1)[N+](=O)[O-] | C10H8N2O3
reactant | Hydrazine hydrate | 5.6 mmol, 270 μl | O.NN
catalyst | Raney Nickel | 60 mg | [Ni] | Ni
solvent | MeOH | 10 ml | CO | CH4O
product | 6-Methoxyquinolin-8-amine | 250 mg, 100% | COC=1C=C2C=CC=NC2=C(C1)N | C10H10N2O
